US08471005B2
(3-Methoxy-6-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
Following a procedure analogous to 251c, 3-Methoxy-6-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine (0.164 g, 0.59 mmol) and 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (85 mg, 0.30 mol) were converted to the title compound (19.6 mgs). 1H-NMR (DMSO-d6) δ 8.70 (s, 1H), 8.16 (s, 1H), 8.02 (d, J=7.4 Hz, 1H), 7.45-7.41 (m, 2H), 7.50-7.45 (m, 2H), 7.14-7.07 (m, 2H), 7.03 (d, J=4.9 Hz, 1H), 6.71 (s, 1H), 3.90 (s, 3H), 3.86 (s, 3H), 3.79-3.74 (m, 4H), 2.91-2.50 (complex series of m, 7H), 2.40 (t, J=10.6 Hz, 1H), 2.16-2.00 (m, 2H), 1.80-1.70 (m, 1H), 1.43-1.33 (m, 1H); LC/MS (ESI+): 500.17 (M+H).

reactant | 3-Methoxy-6-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine | 0.59 mmol, 0.164 g | COC1=CC2=C(CCCC(C2)N2CCOCC2)C=C1N | C16H24N2O2
reactant | 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.30 mol, 85 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
product | (3-Methoxy-6-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | 19.6 mgs | COC1=CC2=C(CCCC(C2)N2CCOCC2)C=C1NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C29H33N5O3
